US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(2-nitrobenzylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol) and 2-nitrobenzaldehyde (85 mg, 0.56 mmol) similar to Example 3 and isolated as a yellow solid (20 mg, 11%). 1H NMR (CDCl3): 9.37 (s, 1H), 8.27 (s, 1H), 8.00 (d, J=8.1 Hz, 1H), 7.89 (d, J=7.5 Hz, 1H), 7.68 (t, J=7.5 Hz, 1H), 7.57 (t, J=7.8 Hz, 1H), 7.43 (d, J=7.2 Hz, 1H), 6.24-6.14 (m, 2H), 4.30-4.26 (m, 1H), 3.07 (s, 1H), 2.97 (s, 1H), 1.94-1.86 (m, 1H), 1.67 (d, J=8.4 Hz, 1H), 1.52 (d, J=9.0 Hz, 1H), 1.46-1.40 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 2-nitrobenzaldehyde | 0.56 mmol, 85 mg | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(2-nitrobenzylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=C(C=CC=C2)[N+](=O)[O-])=S | C15H16N4O2S
